US04897405
Preparation of 4-[(1-Methyl-2-naphthalenyl)methyl]-3H-1,2,3,5-oxathiadiazole 2-Oxide
A suspension of N'-hydroxy-2-(1-methylnaphthalenyl)ethanimidamide (2.8 g, 13.1 mmol) in toluene (250 mL) was heated to 80° C. until all of the solid had dissolved. Thionyl chloride (1.86 g, 15.7 mmol) was added dropwise to the above solution under a stream of nitrogen, and a white precipitate was formed. The mixture was heated to reflux for 15 minutes, during which the precipitate dissolved to give an orange solution. The hot solution was filtered to remove trace solids and the filtrate was concentrated in vacuo to give a yellow solid. Recrystallization from toluene gave the desired product (1.90 g, 56%) as a light yellow solid, m.p. 118°-119° C. (dec.).

reactant | N'-hydroxy-2-(1-methylnaphthalenyl)ethanimidamide | 13.1 mmol, 2.8 g | ON=C(CC1=C(C2=CC=CC=C2C=C1)C)N | C13H14N2O
reactant | Thionyl chloride | 15.7 mmol, 1.86 g | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 250 mL | C1(=CC=CC=C1)C | C7H8
product | 4-[(1-Methyl-2-naphthalenyl)methyl]-3H-1,2,3,5-oxathiadiazole 2-Oxide | 1.90 g, 56% | CC1=C(C=CC2=CC=CC=C12)CC=1NS(ON1)=O | C13H12N2O2S
